US07977481B2
Purification of Met:
The pellet of Sf9 insect cells produced from a 6 L expression of Jak2 was resuspended in a buffer containing 50 mM Tris-HCl pH 8.5, 250 mM NaCl, 5% Glycerol, 0.2% β-octylglucoside, 5 mM β-mercaptoethanol (or with ligand added to the buffer eg. 5 mM ATP and 10 mM MgCl2; 0.05 mM compound of the invention) in a volume of approximately 40 mL per 1 L of original culture. One tablet of Roche Complete, EDTA-free protease inhibitor cocktail (Cat. #1873580) was added per 1 L of original culture. The suspension was then stirred for 1 hour at 4° C. Debris was removed by centrifugation for 30 minutes at 39,800 g at 4° C. The supernatant was decanted into a 500 mL beaker and 10 mL of 50% Qiagen Ni-NTA Agarose (Cat. #30250) pre-equilibrated in 50 mM Tris-HCl pH 8.5, 250 mM NaCl, 5% Glycerol, 0.2% β-octylglucoside, 5 mM β-mercaptoethanol was added and stirred for 30 minutes at 4° C. The sample was poured through a drip column at 4° C. and washed with 10 column volumes (CV) of 50 mM Tris-HCl pH 8.5, 250 mM NaCl, 5% Glycerol, 0.2% β-octylglucoside, 5 mM β-mercaptoethanol. The protein was eluted in 5 mL fractions using 5 CV of the same buffer containing 250-500 mM Imidazole. Fractions were pooled by SDS-PAGE analysis and the protein concentration determined by a Bradford assay. 5 mM TCEP was added to the pool and the protein sample was concentrated to ˜8 mL by centrifugation in an Amicon Ultra-15 10,000 Da MWCO centrifugal filter unit (Cat. #UFC901024). The concentrated protein was applied to a GE Healthcare HiLoad 16/60 Superdex 75 or 200 prep grade column (Cat. #17-1068-01, Cat. #17-1069-01) equilibrated in 20 mM Tris-HCl pH 8.5, 250 mM NaCl, and 1 mM DTT. Fractions were run on a SDS-PAGE gel and the cleanest fractions were pooled. The protein was concentrated to approximately 6.5-10 mg/mL. Samples in the final buffer (20 mM Tris-HCl pH 8.5, 250 mM NaCl, 1 mM DTT; [or with ligand added eg. 2 mM ATP/5 mM MgCl2 or 0.05 mM compound of the invention]) are delivered fresh to crystallization and stored at 4° C. or flash frozen in liquid nitrogen (as 120 μL aliquots) and stored at −80° C.

reactant | Tris-HCl | 50 mM, pH 8.5 | C(C(CO)(CO)N)O.Cl
reactant | β-mercaptoethanol | 5 mM | SCCO | C2H6OS
reactant | ATP | 5 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | MgCl2 | 10 mM | [Mg+2].[Cl-].[Cl-]
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | Glycerol | OCC(O)CO | C3H8O3
product | Met | N[C@@H](CCSC)C(=O)O | C5H11NO2S
